### PR TITLE
[Merged by Bors] - chore(Topology/Separation): generalize theorems on `IndiscreteTopology`

### PR DESCRIPTION
**Pull request by plp127**
Generalize some theorems on `IndiscreteTopology` from `EMetricSpace` to `T0Space`. Also move `subsingleton_iff_discrete_and_indiscrete` to an earlier file because it has an easier proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Separation/Basic.lean [hunk 1]
```diff
@@ -258,6 +258,25 @@ theorem T0Space.of_open_cover (h : ∀ x, ∃ s : Set X, x ∈ s ∧ IsOpen s 
     let ⟨s, hxs, hso, hs⟩ := h x
     ⟨s, hxs, (hxy.mem_open_iff hso).1 hxs, hs⟩
 
+variable (X) in
+instance [T0Space X] [Nontrivial X] : NontrivialTopology X := by
```
Comment (plp127) [inline Mathlib/Topology/Separation/Basic.lean:264]: I think this instance will very often be the one you want. Therefore, I have decided to not lower its priority.

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/c8a0c4ee6c7e9e98f01dd453bf380c9e82cdc5ba?reference=1f8806b67d6f09e6d2552c031e6d3a3171016116) for c8a0c4ee6c7e9e98f01dd453bf380c9e82cdc5ba against 1f8806b67d6f09e6d2552c031e6d3a3171016116 are in. No significant results found. @felixpernegger

- ✅ `build//instructions`: **-112.1G** (**-0.08%**)

No significant changes detected.

File: Mathlib/Topology/Separation/Basic.lean [hunk 2]
```diff
@@ -258,6 +258,25 @@ theorem T0Space.of_open_cover (h : ∀ x, ∃ s : Set X, x ∈ s ∧ IsOpen s 
     let ⟨s, hxs, hso, hs⟩ := h x
     ⟨s, hxs, (hxy.mem_open_iff hso).1 hxs, hs⟩
 
+variable (X) in
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Basic.lean:261]: why explicit?

File: Mathlib/Topology/Separation/Basic.lean [hunk 3]
```diff
@@ -258,6 +258,25 @@ theorem T0Space.of_open_cover (h : ∀ x, ∃ s : Set X, x ∈ s ∧ IsOpen s 
...
+  intro
+  obtain ⟨a, b, hab⟩ := exists_pair_ne X
+  apply hab
+  exact (Inseparable.all a b).eq
+
+theorem subsingleton_iff_indiscreteTopology [T0Space X] :
+    Subsingleton X ↔ IndiscreteTopology X := by
+  refine ⟨?_, Function.mtr ?_⟩
+  · intro; infer_instance
+  · rw [not_subsingleton_iff_nontrivial, not_indiscrete_iff]
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Basic.lean:272]: Is there a reason for not also making the other direction an instance?

File: Mathlib/Topology/Separation/Basic.lean [hunk 4]
```diff
@@ -258,6 +258,25 @@ theorem T0Space.of_open_cover (h : ∀ x, ∃ s : Set X, x ∈ s ∧ IsOpen s 
...
+    intro; infer_instance
+
+theorem nontrivial_iff_nontrivialTopology [T0Space X] : Nontrivial X ↔ NontrivialTopology X := by
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Basic.lean:275]: same

File: Mathlib/Topology/Separation/Basic.lean [hunk 5]
```diff
@@ -258,6 +258,25 @@ theorem T0Space.of_open_cover (h : ∀ x, ∃ s : Set X, x ∈ s ∧ IsOpen s 
     let ⟨s, hxs, hso, hs⟩ := h x
     ⟨s, hxs, (hxy.mem_open_iff hso).1 hxs, hs⟩
 
+variable (X) in
+instance [T0Space X] [Nontrivial X] : NontrivialTopology X := by
+  rw [← not_indiscrete_iff]
+  intro
+  obtain ⟨a, b, hab⟩ := exists_pair_ne X
+  apply hab
+  exact (Inseparable.all a b).eq
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Basic.lean]:
```suggestion
  obtain ⟨a, b, hab⟩ := exists_pair_ne X
  exact nontrivial_iff_exists_not_inseparable.mpr ⟨a, b, by simpa⟩
```

File: Mathlib/Topology/Separation/Basic.lean (hunk 3 above)
Comment (plp127) [reply Mathlib/Topology/Separation/Basic.lean:272]: The reason is that I think the other direction is not usually an instance you want to apply, similar to `finite_of_compact_of_discrete`.

File: Mathlib/Topology/Separation/Basic.lean (hunk 4 above)
Comment (plp127) [reply Mathlib/Topology/Separation/Basic.lean:275]: same

File: Mathlib/Topology/Separation/Basic.lean (hunk 2 above)
Comment (plp127) [reply Mathlib/Topology/Separation/Basic.lean:261]: It makes it easier to specify `X` in case you need to refer to the instance explicitly

File: Mathlib/Topology/Separation/Basic.lean [hunk 6]
```diff
@@ -258,6 +258,22 @@ theorem T0Space.of_open_cover (h : ∀ x, ∃ s : Set X, x ∈ s ∧ IsOpen s 
     let ⟨s, hxs, hso, hs⟩ := h x
     ⟨s, hxs, (hxy.mem_open_iff hso).1 hxs, hs⟩
 
+variable (X) in
+instance [T0Space X] [Nontrivial X] : NontrivialTopology X := by
+  obtain ⟨a, b, hab⟩ := exists_pair_ne X
+  exact nontrivial_iff_exists_not_inseparable.mpr ⟨a, b, mt Inseparable.eq hab⟩
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Basic.lean:266]:
```suggestion
instance [T0Space X] [Nontrivial X] : NontrivialTopology X :=
  let ⟨a, b, hab⟩ := exists_pair_ne X
  nontrivial_iff_exists_not_inseparable.mpr ⟨a, b, mt Inseparable.eq hab⟩
```

Comment (plp127) [reply Mathlib/Topology/Separation/Basic.lean:266]: I think the proof is short enough already.

**Review by felixpernegger — APPROVED** [review]

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
